US04897105
Preparation of 5,7-dimethoxy-2-[(2-methoxycarbonylbenzyl)sulfonyl]imino-2H-[1,2,4]-thiadiazolo[2,3-a]pyrimidine (Compound No. 21)
N-(2-Methoxycarbonylbenzyl)sulfonyl-N'-(4,6-dimethoxy-2-pyrimidinyl) thiourea (1.0 g) is dissolved in 15 ml of pyridine and cooled to -10°~-5° C., to which 0.4 g of bromine is dropwise added. After stirring for 1.5 hours at the same temperature, the reaction mixture is poured into 100 ml of ice water and the white crystals are collected by filtration. The product is washed with water, dried and washed with hot acetonitrile to give 0.78 g of the title compound as white powdery crystals. mp 153°~154° C.

reactant | N-(2-Methoxycarbonylbenzyl)sulfonyl-N'-(4,6-dimethoxy-2-pyrimidinyl) thiourea | 1.0 g | COC(=O)C1=C(CS(=O)(=O)NC(=S)NC2=NC(=CC(=N2)OC)OC)C=CC=C1 | C16H18N4O6S2
reactant | bromine | 0.4 g | BrBr | Br2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 5,7-dimethoxy-2-[(2-methoxycarbonylbenzyl)sulfonyl]imino-2H-[1,2,4]-thiadiazolo[2,3-a]pyrimidine | 0.78 g | COC1=NC=2N(C(=C1)OC)SC(N2)=NS(=O)(=O)CC2=C(C=CC=C2)C(=O)OC | C16H16N4O6S2
